US04387238
Following the procedure of Example 1, monocyclopentyl potassium epoxysuccinate (5.0 g) was successively treated with oxalyl chloride (2.55 g) and cyclohexylamine (3.96 g) to give 2.5 g of cyclopentyl N-cyclohexyl-2,3-epoxysuccinamate (Compound No. 25) as colorless needles melting at 93°-97° C.

reactant | monocyclopentyl potassium epoxysuccinate | 5.0 g | O1C(C(=O)O)C1C(=O)O.C1(CCCC1)[K]
reactant | oxalyl chloride | 2.55 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclohexylamine | 3.96 g | C1(CCCCC1)N | C6H13N
product | cyclopentyl N-cyclohexyl-2,3-epoxysuccinamate | 2.5 g | C1(CCCCC1)NC(C1C(C(=O)OC2CCCC2)O1)=O | C15H23NO4
